US03963725
To a mixture of acetic acid (23 ml), water (6.6 ml) and concentrated hydrochloric acid (15 drops) was added (4-sulfamoylphenoxy) acetaldehyde diethyl acetal (2.3 g), and the mixture was heated for 20 minutes at 110°C. To the solution was added 3,4-dihydroxyphenethylamine hydrochloride (1.2 g), and the mixture was heated for 3.5 hours at the same temperature. After the reaction, the reaction mixture was concentrated to dryness under reduced pressure. The residue was crystallized by adding acetone, and the crystals were recrystallized from a mixed solvent of methanol and acetone to give 1-(4-sulfamoylphenoxy)methyl-6,7-dihydroxy-1,2,3,4-tetrahydroisoquinoline hydrochloride (1.8 g), mp 270°C (dec.).

reactant | acetic acid | 23 ml | C(C)(=O)O | C2H4O2
reactant | (4-sulfamoylphenoxy) acetaldehyde diethyl acetal | 2.3 g | C(C)OC(COC1=CC=C(C=C1)S(N)(=O)=O)OCC | C12H19NO5S
reactant | 3,4-dihydroxyphenethylamine hydrochloride | 1.2 g | Cl.OC=1C=C(CCN)C=CC1O
catalyst | hydrochloric acid | 15 drops | Cl | ClH
solvent | water | 6.6 ml | O | H2O
product | 1-(4-sulfamoylphenoxy)methyl-6,7-dihydroxy-1,2,3,4-tetrahydroisoquinoline hydrochloride | 1.8 g | Cl.S(N)(=O)(=O)C1=CC=C(OCC2NCCC3=CC(=C(C=C23)O)O)C=C1 | InChI=1S/C16H18N2O5S.ClH/c17-24(21,22)12-3-1-11(2-4-12)23-9-14-13-8-16(20)15(19)7-10(13)5-6-18-14;/h1-4,7-8,14,18-20H,5-6,9H2,(H2,17,21,22);1H
